US08211908B2
To a solution of 10 mg of tert-butyl (2,3-dihydro-1,4-benzodioxin-6-ylmethyl)(1-(2-(3-oxopyrido(3,4-b)pyrazin-4(3H)-yl)ethyl)piperidin-4-yl)carbamate in 1 mL of dichloromethane, 1.0 mL of trifluoroacetic acid was added at room temperature. The mixture was stirred at the same temperature for 4 hours, and the solvent was distilled off under reduced pressure. The resultant residue was charged with chloroform and water and adjusted to pH 0.5 with 1 mol/L hydrochloric acid, and the aqueous layer was separated. Chloroform was added to the aqueous layer, and the aqueous layer was adjusted to pH 12 with a 1 mol/L aqueous sodium hydroxide solution. The organic layer was separated, and the aqueous layer was extracted with chloroform. The organic layer and the extract were combined, the resultant solution was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 2 mg of 4-(2-(4-((2,3-dihydro-1,4-benzodioxin-6-ylmethyl)amino)piperidin-1-yl)ethyl)pyrido(3,4-b)pyrazin-3(4H)-one as a light brown oily substance.

reactant | tert-butyl (2,3-dihydro-1,4-benzodioxin-6-ylmethyl)(1-(2-(3-oxopyrido(3,4-b)pyrazin-4(3H)-yl)ethyl)piperidin-4-yl)carbamate | 10 mg | O1CCOC2=C1C=CC(=C2)CN(C(OC(C)(C)C)=O)C2CCN(CC2)CCN2C1=C(N=CC2=O)C=CN=C1 | C28H35N5O5
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(2-(4-((2,3-dihydro-1,4-benzodioxin-6-ylmethyl)amino)piperidin-1-yl)ethyl)pyrido(3,4-b)pyrazin-3(4H)-one | 2 mg | O1CCOC2=C1C=CC(=C2)CNC2CCN(CC2)CCN2C1=C(N=CC2=O)C=CN=C1 | C23H27N5O3
